US08563541B2
Intermediate A-4: 2-fluoro-3-[(4-fluoro-2-nitrophenyl)ethynyl]pyridine
Into a round bottom flask was added 3-ethynyl-2-fluoropyridine (0.3 g, 0.002 mol), 4-fluoro-1-iodo-2-nitrobenzene (0.675 g, 0.00253 mol), bis(triphenylphosphine)palladium(II) chloride (0.09 g, 0.1 mmol), copper(I) iodide (0.04 g, 0.2 mmol), and triethylamine (0.52 mL, 3.7 mmol) in N,N-dimethylformamide (4 mL). The reaction was stirred at room temperature for 2 hours. The reaction was extracted with ethyl acetate, and the combined organic extracts were washed with brine (3×), dried over MgSO4, and purified by column chromatography on silica gel (10% ethyl acetate 90% hexanes), to give 0.443 g of product. 1H NMR (400 MHz, CDCl3): δ 8.44-8.50 (m, 1H), 7.99-8.02 (m, 1H), 7.79-7.90 (m, 1H), 7.78-7.82 (m, 1H), 7.37-7.42 (m, 1H), 7.23-7.29 (m, 1H). MS [M+H]=261.0.

reactant | 3-ethynyl-2-fluoropyridine | 0.002 mol, 0.3 g | C(#C)C=1C(=NC=CC1)F | C7H4FN
reactant | 4-fluoro-1-iodo-2-nitrobenzene | 0.00253 mol, 0.675 g | FC1=CC(=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
reactant | triethylamine | 3.7 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.1 mmol, 0.09 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.2 mmol, 0.04 g | [Cu]I
product | 2-fluoro-3-[(4-fluoro-2-nitrophenyl)ethynyl]pyridine | 0.443 g | FC1=NC=CC=C1C#CC1=C(C=C(C=C1)F)[N+](=O)[O-] | C13H6F2N2O2
